US08748415B2
Preparation of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-acetamidoethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid
To a solution of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-acetamidoethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (114 mg, 0.167 mmol) in DCM (1 ml) was added TFA (0.4 ml, 5.19 mmol). The mixture was stirred at rt for 3.5 h then was concentrated under reduced pressure. The residue was dissolved in dioxane and MeOH and was purified by pre. HPLC. The fractions containing the expected product were combined and concentrated under reduced pressure to afford the title compound as an off-white solid (40.7 mg, 0.065 mmol, 38.8% yield). LCMS: m/e 629.5 (M+H)+, 2.17 min (method 6). 1H NMR (500 MHz, Acetic) δ ppm 8.03 (d, J=8.24 Hz, 2H),7.30 (d, J=8.24 Hz, 2H), 5.37 (d, J=4.58 Hz, 1H), 4.79 (s, 1H), 4.68 (s, 1H), 3.61-3.70 (m, 2H), 3.40-3.53 (m, 2H), 3.37 (d, J=13.12 Hz, 1H), 2.98 (d, J=12.82 Hz, 1H), 2.49-2.57 (m, 1H), 2.09 (s, 3H), 1.75 (s, 3H), 1.19 (s, 3H), 1.14-2.24 (m, 22H), 1.10 (s, 3H), 1.07 (s, 3H), 1.02 (s, 3H), 1.00 (s, 3H).

reactant | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-acetamidoethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.167 mmol, 114 mg | C(C)(=O)NCCNC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C | C45H68N2O3
reactant | TFA | 5.19 mmol, 0.4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-acetamidoethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 0.065 mmol, 40.7 mg, 38.8% yield | C(C)(=O)NCCNC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C | C41H60N2O3
